US08975254B2
(R)-4-[1-(1-Aminopropan-2-yl)-1H-pyrazol-3-yl]-2-chlorobenzonitrile was prepared using the method of Example 34(c) starting from 2-chloro-4-(1H-pyrazol-3-yl)benzonitrile and (R)-tert-butyl 2-hydroxypropylcarbamate. 1H NMR (400 MHz, CDCl3): 1.24 (21-1, broad s), 1.54 (3H, d), 3.05 (1H, distorted dd), 3.17 (1H, distorted dd), 4.34 (1H, m), 6.61 (1H, d), 7.52 (1H, d), 7.66 (1H, d), 7.78 (1H, dd), 7.98 (1H, d).

reactant | 2-chloro-4-(1H-pyrazol-3-yl)benzonitrile | ClC1=C(C#N)C=CC(=C1)C1=NNC=C1 | C10H6ClN3
reactant | (R)-tert-butyl 2-hydroxypropylcarbamate | O[C@@H](CNC(OC(C)(C)C)=O)C | C8H17NO3
product | (R)-4-[1-(1-Aminopropan-2-yl)-1H-pyrazol-3-yl]-2-chlorobenzonitrile | NC[C@@H](C)N1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl | C13H13ClN4
